US04457862
111 g of freshly distilled morpholinocyclopentene, 71.7 g of triethylamine and 900 ml of chloroform are added to a round flask which is fitted with a thermometer, stirrer, reflux condenser and dropping funnel and the mixture is cooled to 0° C. Under a nitrogen atmosphere there are slowly added dropwise thereto 128 g of crude 3,3,5-trimethyl-cyclohexylacetyl chloride in 200 ml of chloroform. The flask content is stirred until it has reached a temperature of 20° C. and it is then warmed at 40° C. for a further 7 hours. After 12 hours, 76.2 of concentrated hydrochloric acid in 190 ml of water are added thereto and the flask content is held at reflux temperature for 21/2 hours. Thereafter, the organic phase is separated, the aqueous phase is extracted twice with chloroform and the combined chloroform extracts are washed as follows: three times with 10% hydrochloric acid, once with water, once with bicarbonate solution and finally with sodium chloride solution until neutral. Now it is concentrated in a rotary evaporator and the crude product (212 g) is distilled in vacuo. There are obtained 90 g (yield: 58%) of 2-(3,3,5-trimethylcyclohexylacetyl)-cyclopentanone.

reactant | morpholinocyclopentene | O1CCN(CC1)C1=CCCC1 | C9H15NO
reactant | triethylamine | 71.7 g | C(C)N(CC)CC | C6H15N
reactant | 3,3,5-trimethyl-cyclohexylacetyl chloride | 128 g | CC1(CC(CC(C1)C)CC(=O)Cl)C | C11H19ClO
reactant | hydrochloric acid | Cl | ClH
reactant | water | 190 ml | O | H2O
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 900 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(3,3,5-trimethylcyclohexylacetyl)-cyclopentanone | 90 g, yield: 58% | CC1(CC(CC(C1)C)CC(=O)C1C(CCC1)=O)C | C16H26O2
